US04806539
3.3 g (10 mmol) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid are heated at 90° in 50 ml of dimethylformamide with 1.8 g (20 mmol) of chloromethylcyclopropane, 3.3 g (20 mmol) of potassium iodide and 2.1 g of triethylamine for 5 hours. The solution is poured into 40 ml of water, the pH is brought to 5 with 2N hydrochloric acid and the precipitate is filtered off with suction and recrystallized from methanol. 0.6 g of 1-cyclopropyl-7-(4-cyclopropylmethyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid of melting point 279°-282° (with decomposition) is obtained.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 10 mmol, 3.3 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
reactant | chloromethylcyclopropane | 20 mmol, 1.8 g | ClCC1CC1 | C4H7Cl
reactant | potassium iodide | 20 mmol, 3.3 g | [I-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 40 ml | O | H2O
solvent | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
product | 1-cyclopropyl-7-(4-cyclopropylmethyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.6 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC1CC1)F)=O)C(=O)O | C21H24FN3O3
